US09062050B2
Dissolve N2-(6-fluoroindan-1-yl)-N6-(5-methyl-2H-pyrazol-3-yl)-3-nitropyridine-2,6-diamine (0.571 g, 1.55 mmol) in methanol (10 mL). Add indium (0.890 g, 7.75 mmol) and hydrochloric acid (12N, 0.65 mL, 7.75 mmol). Stir the mixture under nitrogen for one hour. Filter the reaction mixture through Celite® 521 and wash the solids with methanol. Concentrate the filtrate in vacuo to afford crude N2-(6-fluoroindan-1-yl)-N6-(5-methyl-2H-pyrazol-3-yl)-pyridine-2,3,6-triamine dihydrochloride.

reactant | N2-(6-fluoroindan-1-yl)-N6-(5-methyl-2H-pyrazol-3-yl)-3-nitropyridine-2,6-diamine | 1.55 mmol, 0.571 g | FC1=CC=C2CCC(C2=C1)NC1=NC(=CC=C1[N+](=O)[O-])NC=1NN=C(C1)C | C18H17FN6O2
reactant | indium | 7.75 mmol, 0.890 g | [In] | In
reactant | hydrochloric acid | 7.75 mmol, 12N, 0.65 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | N2-(6-fluoroindan-1-yl)-N6-(5-methyl-2H-pyrazol-3-yl)-pyridine-2,3,6-triamine dihydrochloride | Cl.Cl.FC1=CC=C2CCC(C2=C1)NC1=NC(=CC=C1N)NC=1NN=C(C1)C | InChI=1S/C18H19FN6.2ClH/c1-10-8-17(25-24-10)22-16-7-5-14(20)18(23-16)21-15-6-3-11-2-4-12(19)9-13(11)15;;/h2,4-5,7-9,15H,3,6,20H2,1H3,(H3,21,22,23,24,25);2*1H
